US06642386B2
A solution of tert-butyl-(5-ethoxy-2-fluoro-phenoxy)-dimethyl-silane described in example 1.2 in 160 ml THF was treated with 66.9 ml pentamethyl diethylentriamine and cooled to −78° C. 200 ml of 1.6 M n-butyllithium solution in hexanes were added dropwise. The light brown, viscous suspension was stirred at −50° C. to −60° C. for 5 hrs, then treated with 24.7 ml DMF within 20 min. The clear yellow solution was warmed up to r.t. overnight. The reaction was quenched with ice and extracted with EtOAc. The organic layer was dried over MgSO4, filtrated and evaporated to give 51.4 g 3-(tert-butyl-dimethyl-silanyloxy)-5-ethoxy-2-fluoro-benzaldehyde as a brown liquid which was used for the next step without further purification.

reactant | tert-butyl-(5-ethoxy-2-fluoro-phenoxy)-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OC1=C(C=CC(=C1)OCC)F | C14H23FO2Si
reactant | pentamethyl diethylentriamine | 66.9 ml | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | n-butyllithium | 1.6 M, 200 ml | C(CCC)[Li]
reactant | DMF | 24.7 ml | CN(C)C=O | C3H7NO
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | 3-(tert-butyl-dimethyl-silanyloxy)-5-ethoxy-2-fluoro-benzaldehyde | 51.4 g | C(C)(C)(C)[Si](OC=1C(=C(C=O)C=C(C1)OCC)F)(C)C | C15H23FO3Si
